US04864030
Preparation of 1,2-dimethylimidazole-5-carboxylic acid
In the manner described in Example 1 126 g (1 mol) of 2-methylimidazole-4(5)-carboxylic acid was treated with dimethyl sulfate and the product was converted into its methyl ester for characterization. This gave 103.3 g of methyl 1,2-dimethylimidazole-5-carboxylate, m.p. 38°-40° C., an overall yield of 67%.

reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | methyl 1,2-dimethylimidazole-5-carboxylate | 103.3 g | CN1C(=NC=C1C(=O)OC)C | C7H10N2O2
product | 1,2-dimethylimidazole-5-carboxylic acid | yield of 67% | CN1C(=NC=C1C(=O)O)C | C6H8N2O2
